US04182711
(C) Preparation of p-Nitrobenzyl 2-[4-(2-Methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-triphenylphosphoranylideneacetate
A mixture of p-nitrobenzyl 2-[4-(2-methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-chloroacetate (761 mg.), triphenylphosphine (524 mg.; 2.00 mmoles) and 2,6-lutidine (0.235 ml.; 214 mg.; 2.00 mmoles) in tetrahydrofuran (7 ml.) was stirred under N2 atmosphere at room temperature for 50 hours. After filtration of the precipitate, the filtrate was evaporated to yield 1.39 g. of a crude oil. This oil was purified by columm chromatography (SiO2 ; 30 g.; eluant-ethyl acetate) yielding title product (494 mg.; 0.736 mmole; yield 42.3% based on starting ester) as a brownish oil.

reactant | p-nitrobenzyl 2-[4-(2-methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-chloroacetate | 761 mg | COCCOCC(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C17H19ClN2O8S
reactant | triphenylphosphine | 2.00 mmoles, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,6-lutidine | 2.00 mmoles, 0.235 ml, 214 mg | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | p-Nitrobenzyl 2-[4-(2-Methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-triphenylphosphoranylideneacetate | 0.736 mmole, 494 mg, yield 42.3% | COCCOCC(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H33N2O8PS
